US05164383
10 g (0.05 mol) of S-propyl dichlorothiophosphate are dissolved in 500 ml of hexane and to the solution there are first added, between 0° and -5° C., 10 ml (0.07 mol) of triethylamine, and then 10 g (0.052 mol) of 2,2,3,3,4,4-hexafluorocyclopentan-1-ol, dissolved in 25 ml of methylene chloride. The mixture is stirred for 2 hours at 20° C. and 5 g (0.11 mol) of ethylamine are then added dropwise to the reaction mixture at 20° C. To complete the reaction, the mixture is stirred for 24 hours at 20° C., the solid is filtered off, and the solvent is distilled off under reduced pressure. The residue is then purified further by filtration through silica gel (cyclohexane:ethyl acetate=7:3 parts by volume). After the solvent has been distilled off, 8.5 g (47% of theory) of O-(2,2,3,3,4,4-hexafluorocyclopentyl) S-propyl N-ethylthiophosphoramidate of refractive index nD20 =1.4292 are obtained.

reactant | S-propyl dichlorothiophosphate | 0.05 mol, 10 g | P(=O)(SCCC)(Cl)Cl | C3H7Cl2OPS
reactant | triethylamine | 0.07 mol, 10 ml | C(C)N(CC)CC | C6H15N
reactant | 2,2,3,3,4,4-hexafluorocyclopentan-1-ol | 0.052 mol, 10 g | FC1(C(CC(C1(F)F)(F)F)O)F | C5H4F6O
reactant | ethylamine | 0.11 mol, 5 g | C(C)N | C2H7N
solvent | hexane | 500 ml | CCCCCC | C6H14
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | O-(2,2,3,3,4,4-hexafluorocyclopentyl) S-propyl N-ethylthiophosphoramidate | 8.5 g, 47% | C(C)NP(OC1C(C(C(C1)(F)F)(F)F)(F)F)(SCCC)=O | C10H16F6NO2PS
